US06407086B2
4,4-Dimethyl-24-acetamido-5α-chola-8,14-dien-3β-ol
3β-tert-Butyldimethylsilyloxy-4,4-dimethyl-24-amino-5α-chola-8,14-diene (0.50 g) is acetylated in a mixture of 20 ml of pyridine and 7 ml of acetic anhydride and hydrolysed with HCl/ethanol. After aqueous work-up and crystallisation from ethanol/water, the title compound (0.24 g) is isolated. Melting point: 219-221° C.

reactant | 3β-tert-Butyldimethylsilyloxy-4,4-dimethyl-24-amino-5α-chola-8,14-diene | 0.50 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1C([C@@H]2CCC=3C4=CC[C@H]([C@@H](CCCN)C)[C@]4(CCC3[C@]2(CC1)C)C)(C)C | C32H57NOSi
reactant | HCl ethanol | Cl.C(C)O
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
solvent | acetic anhydride | 7 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 4,4-Dimethyl-24-acetamido-5α-chola-8,14-dien-3β-ol | 0.24 g | CC1([C@@H]2CCC=3C4=CC[C@H]([C@@H](CCCNC(C)=O)C)[C@]4(CCC3[C@]2(CC[C@@H]1O)C)C)C | C28H45NO2
